* c:\users\kesav\esim-workspace\adcbridge\adcbridge.cir

v1  in gnd pulse(0 5 0 0.000001 0.000009 0.005 0.01)
* u3  inout plot_v1
* u1  in plot_v1
* u2  in inout adc_bridge_1
* u4  inout out dac_bridge_1
* u5  out plot_v1
a1 [in ] [inout ] u2
a2 [inout ] [out ] u4
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_high=2.0 in_low=1.0 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_high=5.0 out_undef=0.5 input_load=1.0e-12 out_low=0.0 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 50e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(inout)
plot v(in)
plot v(out)
.endc
.end
