* c:\users\kesav\esim-workspace\finaltry\finaltry.cir

.include INVCMOS.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 sample net-_m2-pad2_ input input CMOSP W=9u L=3u M=1
m1 input net-_m1-pad2_ sample sample CMOSN W=9u L=3u M=1
x1 net-_m1-pad2_ net-_m2-pad2_ INVCMOS
v1  input gnd sine(0 3.3 10 0 0)
v2  net-_m1-pad2_ gnd pulse(-3.3 3.3 0 0.000001 0.000009 0.0005 0.001)
c1  sample gnd .1u
* u2  sample plot_v1
* u1  input plot_v1
r3  ? gnd 2k
.tran 1e-03 300e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(sample)
plot v(input)
.endc
.end
